US09340556B2
To a solution of 1-(((6R,7R)-7-((Z)-2-((((S)-4-(tert-butoxy)-1-((4-methoxybenzyl)oxy)-1,4-dioxobutan-2-yl)oxy)imino)-2-(2-((tert-butoxycarbonyl)amino)thiazol-4-yl)acetamido)-2-(((4-methoxybenzyl)oxy)carbonyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-en-3-yl)methyl)-1-(2-(7-((4-methoxybenzyl)oxy)-1,8-dioxo-3,4-dihydro-1H-pyrido[1,2-a]pyrazin-2(8H)-yl)ethyl)pyrrolidin-1-ium (1.05 g, 0.812 mmol) in dichloromethane (15 mL) stirred under nitrogen at room temperature was added neat anisole (0.887 mL, 8.12 mmol) in one charge. The reaction mixture was stirred for one minute and trifluoroacetic acid (0.626 mL, 8.12 mmol) was then added. The reaction was allowed to stir at room temperature overnight and another 10 eq trifluoroacetic acid (0.626 mL, 8.12 mmol) was added and the reaction was allowed to stir for another 24 h. Diisopropyl ether (20 mL) and water (4 mL) were added and the suspension was allowed to stir for 5 min. then decanted off the supernate from the solid mass. The solid was dissolved in acetonitrile (10 mL), water (10 mL) and 2N hydrochloric acid (2.5 mL), absorbed onto HP20SS resin, and purified by dual HP20SS plug column and 26 g C18 column eluting with 0-20% acetonitrile in water. The fractions containing pure desired compound were collected and lyophilized to give (6R,7R)-7-((Z)-2-(2-aminothiazol-4-yl)-2-(((S)-1,2-dicarboxyethoxy)imino)acetamido)-3-((1-(2-(7-hydroxy-1,8-dioxo-3,4-dihydro-1H-pyrido[1,2-a]pyrazin-2(8H)-yl)ethyl)pyrrolidin-1-ium-1-yl)methyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylate (138 mg, 0.178 mmol, 21.92% yield) as an off white solid. LCMS: (M+H)+: 775.4. 1H NMR (400 MHz, DEUTERIUM OXIDE) δ ppm 2.13 (br. s., 4 H) 2.54-2.71 (m, 2 H) 3.54 (br. s., 8 H) 3.74-3.87 (m, 8 H) 4.04 (br. s., 2 H) 4.27 (br. s., 2 H) 4.85 (br. s., 1 H) 5.23 (d, J=4.80 Hz, 1 H) 5.70 (d, J=4.80 Hz, 1 H) 6.90 (s, 1 H) 7.11 (s, 1 H) 7.57 (s, 1 H).

reactant | 1-(((6R,7R)-7-((Z)-2-((((S)-4-(tert-butoxy)-1-((4-methoxybenzyl)oxy)-1,4-dioxobutan-2-yl)oxy)imino)-2-(2-((tert-butoxycarbonyl)amino)thiazol-4-yl)acetamido)-2-(((4-methoxybenzyl)oxy)carbonyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-en-3-yl)methyl)-1-(2-(7-((4-methoxybenzyl)oxy)-1,8-dioxo-3,4-dihydro-1H-pyrido[1,2-a]pyrazin-2(8H)-yl)ethyl)pyrrolidin-1-ium | 0.812 mmol, 1.05 g | C(C)(C)(C)OC(C[C@@H](C(=O)OCC1=CC=C(C=C1)OC)O\N=C(/C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)OC)C[N+]1(CCCC1)CCN1C(C=2N(CC1)C=C(C(C2)=O)OCC2=CC=C(C=C2)OC)=O)\C=2N=C(SC2)NC(=O)OC(C)(C)C)=O
reactant | anisole | 8.12 mmol, 0.887 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 8.12 mmol, 0.626 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic acid | 8.12 mmol, 0.626 mL, 10 eq | FC(C(=O)O)(F)F | C2HF3O2
reactant | Diisopropyl ether | 20 mL | C(C)(C)OC(C)C | C6H14O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | water | 4 mL | O | H2O
product | (6R,7R)-7-((Z)-2-(2-aminothiazol-4-yl)-2-(((S)-1,2-dicarboxyethoxy)imino)acetamido)-3-((1-(2-(7-hydroxy-1,8-dioxo-3,4-dihydro-1H-pyrido[1,2-a]pyrazin-2(8H)-yl)ethyl)pyrrolidin-1-ium-1-yl)methyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylate | 0.178 mmol, 138 mg, 21.92% yield | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)[O-])C[N+]1(CCCC1)CCN1C(C=2N(CC1)C=C(C(C2)=O)O)=O)=N/O[C@@H](CC(=O)O)C(=O)O | C31H34N8O12S2
